US04171361
A reaction mixture containing 51.7 g. of N-pyrrolidinylcarbonyl-2-methylsulfinyl-4,5-dimethoxyaniline and 0.48 mole of O-mesitylenesulfonylhydroxylamine (prepared by the procedure of Tamura et al., J. Org. Chem. 38, 1239, 1973) and 1 l. of acetonitrile was stirred for 48 hours at ambient temperature. The reaction was then concentrated at reduced pressure and the resulting residue dissolved in 2 l. of methylene chloride. The methylene chloride solution was shaken with 1500 ml. of cold water containing 200 ml. of 14 N aqueous ammonium hydroxide. The organic layer was separated, washed with water, and dried. Evaporation of the methylene chloride solvent in vacuo yielded a residue comprising S-methyl-S-[2-(pyrrolidinylcarbonylamino)-4,5-dimethoxyphenyl]sulfoximine. Crystallization of the residue from a chloroform-cyclo hexane solvent mixture yielded 38 g. of crystalline material (70 percent yield) melting at 312°-314° C.

reactant | N-pyrrolidinylcarbonyl-2-methylsulfinyl-4,5-dimethoxyaniline | N1(CCCC1)C(=O)NC1=C(C=C(C(=C1)OC)OC)S(=O)C | C14H20N2O4S
reactant | O-mesitylenesulfonylhydroxylamine | 0.48 mole | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
solvent | acetonitrile | C(C)#N | C2H3N
product | S-methyl-S-[2-(pyrrolidinylcarbonylamino)-4,5-dimethoxyphenyl]sulfoximine | CS(=O)(=N)C1=C(C=C(C(=C1)OC)OC)NC(=O)N1CCCC1 | C14H21N3O4S
